US07214677B2
A: 2-Chloro-5-phenoxycarbonylamino-benzoic acid methyl ester
To a stirred mixture of 5-amino-2-chloro-benzoic acid methyl ester hydrochloride (1.110 g, 5.0 mmol) and pyridine (0.79 g, 10.0 mmol) in anhydrous THF (15 mL) at 0° C. was added phenylchloroformate (0.95 g, 6.0 mmol). After warming to room temperature, the reaction mixture was diluted with ethylacetate (50 mL), washed sequentially with 10% HCl, water and brine and dried over sodium sulfate. Removal of solvent under vacuum and purification of the product by flash chromatography (10% ethyl acetate in hexanes) yielded 0.8 g (53%) of a colorless solid. 1H NMR (300 MHz, DMSO-d6) δ3.9 (s, 3H), 7.0 (br s, 1H), 7.18 (m, 2H), 7.4 (m, 3H), 7.6 (m, 1H), 7.9 (d, J=2.5 Hz, 1H). Mass Spectrum (M−H): 3:1 ratio of 304 and 306.

reactant | 5-amino-2-chloro-benzoic acid methyl ester hydrochloride | 5.0 mmol, 1.110 g | Cl.COC(C1=C(C=CC(=C1)N)Cl)=O
reactant | pyridine | 10.0 mmol, 0.79 g | N1=CC=CC=C1 | C5H5N
reactant | phenylchloroformate | 6.0 mmol, 0.95 g | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | ethylacetate | 50 mL | C(C)OC(C)=O | C4H8O2
product | 2-Chloro-5-phenoxycarbonylamino-benzoic acid methyl ester | 0.8 g, 53% | COC(C1=C(C=CC(=C1)NC(=O)OC1=CC=CC=C1)Cl)=O | C15H12ClNO4
